* Z:\mnt\spice-netlists\LT1302_TA07.asc
D1 N002 OUT MBRS130L
L1 IN N001 22µ
R1 N007 N008 20K
R2 OUT N005 365K
R3 N005 0 100K
C1 N008 0 .01µ
V1 IN 0 6.5
XU1 0 N007 N004 N005 N006 N003 N001 0 LT1302 top=1K bot=1T
R4 IN N003 10
C2 N003 0 1µ
L2 N002 0 22µ
C3 IN 0 100µ
C4 OUT 0 220µ
C5 N001 N002 220µ
Rload OUT 0 9.7
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 4m startup
* LT1302 - µPower High Output Current Step-Up Converter\n2 Li-Ion Cell to 5.8V SEPIC Converter\nInput: 4V to 9V     Output: 5.8V @ 600mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT1302.sub
.backanno
.end
