* Z:\mnt\spice-netlists\LT1377_TA01.asc
V1 IN 0 5
R2 N002 0 6.19K
R3 OUT N002 53.6K
D1 N001 OUT MBRS340
L1 IN N001 4.7µ
Rload OUT 0 48
C3 N003 0 .047µ
XU1 N003 N002 NC_01 NC_02 IN MP_03 0 N001 LT1377
C2 OUT 0 22µ
C1 IN 0 22µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
* LT1377 - 1MHz High Efficiency 1.5A Switching Regulators\n5V to 12V Boost Converter\nInput: 5V       Output: 12V @ .25A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LT1377.sub
.backanno
.end
