* Z:\mnt\spice-netlists\LT1611_TA01.asc
C1 IN 0 22µ
C2 0 OUT 22µ
D1 N002 0 MBRS140
R2 N003 0 10.0K
R1 OUT N003 29.4K
V1 IN 0 5
C4 N001 N002 1µ
XU1 N001 0 N003 IN IN LT1611
L2 OUT N002 4.7µ
L1 IN N001 4.7µ
Rload 0 OUT 33
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
K1 L1 L2 1
* LT1611 - Inverting 1.4MHz Switching Regulator\n5V to -5V, 150mA Low Noise Inverting DC/DC Converter\nInput: 1.1V to 10V      Output: -5V @ 150mA
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LT1611.sub
.backanno
.end
