* Z:\mnt\spice-netlists\LT1935_TA01.asc
V1 IN 0 3.3
R1 OUT N004 29.4K
R2 N004 0 10K
L1 IN N001 1.8µ
D1 N001 OUT 1N5817
XU1 N001 0 N004 N003 IN LT1935
R3 N003 N002 10K
C3 N003 0 .22µ
V2 N002 0 PWL(0 0 1m 3)
Rload OUT 0 5
C1 IN 0 4.7µ
C2 OUT 0 20µ
C4 OUT N004 150p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m
* LT1935 - 1.2MHz Boost DC/DC Converter in ThinSOT with 2A Switch\n5V Boost Converter\nInput: 2.5V to 4.8V      Output: 5V @ 1A (Vin=3.3V) or 0.6A (Vin=2.5V)
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LT1935.sub
.backanno
.end
