* Z:\mnt\spice-netlists\LT3579_TA29.asc
XU1 N003 N005 NC_01 N004 IN N001 MP_02 MP_03 N001 MP_04 MP_05 MP_06 IN N007 N008 MP_07 0 LT3579
C1 IN 0 4.7µ
V1 IN 0 12
C2 N002 N001 4.7µ
D1 N002 OUT MBRS360
R1 OUT N003 130K
R2 IN N004 100K
R3 N007 0 86.6K
C3 0 N008 .02µ
C4 OUT 0 10µ
L1 IN N001 6.8µ
L2 0 N002 6.8µ
Rload OUT 0 8.57
C5 N005 0 47p
C6 N006 0 2200p
R4 N006 N005 9.53K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
K1 L1 L2 1
* Notes: \n  C3 should be 0.22µF, not 0.02µF.  It is reduced in value here to speed up the time to simulate a soft start cycle.\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LT3579 - 6A Boost/Inverting DC/DC Converter with Fault Protection\n1MHz SEPIC Converter Generates a 12V @ 1.4A Output from a 9V to 16V Input\nInput: 9V-16V      Output: 12V @ 1.4A-1.9A
.lib LT3579.sub
.backanno
.end
