* Z:\mnt\spice-netlists\LT3652_TA04.asc
XU1 N001 N004 N001 N007 NC_01 N010 N011 N008 OUT N003 N005 N002 0 LT3652
R1 N003 OUT 100m
C1 N002 N005 1µ
D1 N006 N005 1N914
D2 0 N002 MBRS340
D3 IN N001 MBRS140
R2 N001 N004 499k
R3 N004 0 100K
R4 N013 N007 1Meg
D4 N012 N013 1N4148
R5 OUT N012 309K
R6 N009 N008 910
R7 N012 N011 174K
R8 N012 0 100K
R§NTC N009 0 10K
C2 OUT 0 10µ
D5 N006 OUT BZX84C6V2L
XU2 0 IN PhotoCell
C4 N001 0 10µ
C5 N010 0 4.7µ
L1 N002 N003 22µ
C3 OUT 0 .15m
C6 OUT 0 100µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m
.subckt PhotoCell B A
C1 A B 1n
V1 N001 B  PWL(0 0 3u 17.7)
D1 N001 A S2
R1 A N001 75
.model S2 D(Ron=.1 Ilimit=1.2 epsilon=.5)
.ends
* LT3652 - Power Tracking 2A Battery Charger for Solar Power\n1A Solar Panel Powered 3-Stage 12V Lead-Acid Fast/Float Charger\nInput: Up to 16V     Output: Up to 14.4V @ 1A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.ic V(OUT)=9.9
.lib LT3652.sub
.backanno
.end
