* Z:\mnt\spice-netlists\LT3748_TA02.asc
R1 N005 0 34.8K
V1 IN 0 12
C1 N007 0 100n
C2 0 N012 4.7µ
R2 N004 N003 52.3K
R3 0 N006 6.04K
L1 IN N004 20µ
L2 0 N001 5µ
C3 OUT 0 100µ V=10
D1 N001 OUT PDS760
R4 N008 N007 1K
C4 0 N010 .002µ
R5 IN N002 825K
R6 N002 0 215K
XU1 0 MP_01 MP_02 N009 IN N012 N002 MP_03 MP_04 N010 N011 N008 N003 N006 N005 LT3748
M§Q1 N004 N009 N011 N011 Si4490DY
R7 N011 0 6m
Rload OUT 0 2.5
C5 IN 0 10µ
D2 0 OUT BZX84C6V2L
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 5m startup
* LT3748 - 5V, 2A Isolated Output from Automotive Input with Continuous Operation from 6V to 45V \nInput: 6V to 45V    Output: 5V @ 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
.lib LT3748.sub
.backanno
.end
