* Z:\mnt\spice-netlists\LT37551_TA02.asc
C1 N003 0 4.7µ
M§Q1 N001 N006 N009 N009 Si7850DP
R1 N009 0 .015
L1 IN N001 22µ
R2 N002 N010 1Meg
R3 N010 0 23.7K
D1 N001 N002 MBRS360
R4 N002 N011 .1
C2 N002 0 4.7µ
V1 IN 0 14
R5 IN N004 1Meg
R6 N004 0 187K
C3 N012 0 1000p
M§Q2 N014 N017 0 0 Si7850DP
D2 N011 N014 LXK2-PW14 N=13
C4 N013 0 .01µ
R7 N015 0 28.7K
V2 N016 0 PULSE(3.3 0 1.9m 1u 1u .5m 1m)
XU1 N008 N016 N005 N013 N015 N004 N003 IN N009 N006 N017 N010 N011 N002 N012 N007 0 LT3755-2
C5 IN 0 4.7µ
R8 N003 N005 100K
R9 N008 N007 16.9K
R10 0 N007 100K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4m startup
* NTC
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LT3755-2 - 40VIN, 75VOUT LED Controller\n50W White LED Automotive Headlamp Driver (Vin 8V to 40V)
.lib LT3755-2.sub
.backanno
.end
